US05521188
To a solution of 4-methylindole (7.433 g, 0.0567 mol) in 100 mL of glacial acetic acid was added NaCNBH3 (7.25 g, 0.12 mol) portionwise over 1.5 h. The reaction mixture was then concentrated in vacuo, water was added and the solution was basified with 10N NaOH. The resulting mixture was extracted with ethyl acetate (×3) and the organic extract was washed (brine), dried (Na2SO4) and evaporated to give an oil. Flash chromatography (SiO2 /ethyl acetate-hexane, 1:4) of this oil gave pure 4-methylindoline (6.962 g, 92%) as an oil: 1H NMR (DMSO-d6, 200 MHz) δ 6.78 (t, J=7.6 Hz, 1H), 6.33 (d, J=7.4 Hz, 1H), 6.30 (d, J=7.6 Hz, 1H), 5.36 (br s, 1H), 3.38 (t, J=8.5 Hz, 2H), 2.81 (t, J=8.5 Hz, 2H), 2.11 (s, 3H).

reactant | 4-methylindole | 0.0567 mol, 7.433 g | CC1=C2C=CNC2=CC=C1 | C9H9N
reactant | NaCNBH3 | 0.12 mol, 7.25 g | [BH3-]C#N.[Na+]
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 4-methylindoline | 6.962 g, 92% | CC1=C2CCNC2=CC=C1 | C9H11N
